US07504412B2
4-(5-Chloro-2-pyridyl)-N-(2-cyclopropyl-3-methylimidazo-[1,2-a]pyridin-6-yl)benzamide
Conducting the operations similar to those of Example 1 using 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine and 4-(5-chloro-2-pyridyl)benzenecarboxylic acid, the title compound was obtained as white solid.

reactant | 2-cyclopropyl-3-methyl-6-nitroimidazo[1,2-a]pyridine | C1(CC1)C=1N=C2N(C=C(C=C2)[N+](=O)[O-])C1C | C11H11N3O2
reactant | 4-(5-chloro-2-pyridyl)benzenecarboxylic acid | ClC=1C=CC(=NC1)C1=CC=C(C=C1)C(=O)O | C12H8ClNO2
product | 4-(5-Chloro-2-pyridyl)-N-(2-cyclopropyl-3-methylimidazo-[1,2-a]pyridin-6-yl)benzamide | ClC=1C=CC(=NC1)C1=CC=C(C(=O)NC=2C=CC=3N(C2)C(=C(N3)C3CC3)C)C=C1 | C23H19ClN4O
